US08877782B2
N—((S)-1-Hydroxymethyl-2-methyl-propyl)-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinamide
As described for example 191, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid (200 mg, 0.65 mmol) was converted, using L-valinol instead of 2-aminoethyl isopropylether, to the title compound (220 mg, 86%) which was obtained as a white solid. MS: m/e=394.2 [M−H]−.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.65 mmol, 200 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)O)C=C1 | C17H14N2O4
reactant | L-valinol | N[C@@H](C(C)C)CO | C5H13NO
product | N—((S)-1-Hydroxymethyl-2-methyl-propyl)-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinamide | 220 mg, 86% | OC[C@H](C(C)C)NC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC=CC=C1)=O | C22H25N3O4
